US07595397B2
0.7 g of 2-isopropyl-piperazine could be dissolved in acetonitrile and cooled to 0° C. A solution of 0.5 quiv. 4-bromobenzylbromide in acetonitrile could be added dropwise over 1 h. The reaction would be stirred at room temperature for 2 h. The reaction mixture could be concentrated and the residue could be purified by column chromatography (silica, eluent dichloromethane, 0-5% methanol, 0-0.5% dimethylethylamine) to afford 1-(4-bromo-benzyl)-3-isopropyl-piperazine.

reactant | 2-isopropyl-piperazine | 0.7 g | C(C)(C)C1NCCNC1 | C7H16N2
reactant | 4-bromobenzylbromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-bromo-benzyl)-3-isopropyl-piperazine | BrC1=CC=C(CN2CC(NCC2)C(C)C)C=C1 | C14H21BrN2
